US04442110
N-Cyano-1-methylhydrazinecarboximidothioic acid, methyl ester
A mixture of methyl hydrazine (0.48 ml) and cyanocarbonimidodithioic acid dimethyl ester (1.3 g) in acetonitrile was stirred at 25° for 16 hours. The resulting solution was evaporated to a gum which was crystallized from acetonitrile/ether to give the title compound as colourless granules (210 mg) m.p. 69°-71°.

reactant | methyl hydrazine | 0.48 ml | CNN | CH6N2
reactant | cyanocarbonimidodithioic acid dimethyl ester | 1.3 g | CSC(=NC#N)SC | C4H6N2S2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Cyano-1-methylhydrazinecarboximidothioic acid, methyl ester | C(#N)N=C(SC)N(N)C | C4H8N4S
